US06455572B1
1-{2-[4-(6,7-Dimethoxy-3,4-dihydro-naphthalen-1-yl)-phenoxy]-ethyl}-pyrrolidine
A solution of 6.75 g (0.025 moles) of 1-(2-(4-bromophenoxy)ethyl)pyrrolidine in 250 ml of ether was cooled to −78° C. under N2. Several ml of THF were added to maintain a clear solution. 16.7 ml of 1.6 M n-butyllithium was added dropwise keeping the temperature below −70° C. After stirring at −78° C. for 1 hour, a solution of 5 g (0.024 moles) of 6,7-dimethoxy-1-tetralone in 25 ml of THF was added dropwise during 1 hour keeping the temperature below −70° C. After stirring for 2.5 hours at −78° C., the reaction was quenched by addition of 100 ml of 2N HCl. The reaction was allowed to warm to room temperature and the pH was adjusted to 7 by addition of 5N NaOH. The Et2O layer was separated and the aqueous layer was extracted 2 times with EtOAc. The combined Et2O/EtOAc layers were dried over Na2SO4 and evaporated to give 9 g of crude product, which was purified on 400 g of silica gel eluting with 95/5 CH2Cl2/MeOH to remove starting tetralone then with 85/15 CH2Cl2/MeOH to give 3.3 g of product.

reactant | 1-(2-(4-bromophenoxy)ethyl)pyrrolidine | 0.025 moles, 6.75 g | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | n-butyllithium | 1.6 M, 16.7 ml | C(CCC)[Li]
reactant | 6,7-dimethoxy-1-tetralone | 0.024 moles, 5 g | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-{2-[4-(6,7-Dimethoxy-3,4-dihydro-naphthalen-1-yl)-phenoxy]-ethyl}-pyrrolidine | 3.3 g | COC=1C=C2CCC=C(C2=CC1OC)C1=CC=C(OCCN2CCCC2)C=C1 | C24H29NO3
